US03966746
a. [[(1-ethyl-3-methyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester
12.5 g of 1-ethyl-3-methyl-5-aminopyrazole (0.1 mol) and 21.6 g of ethoxymethylene malonic acid diethyl ester (0.1 mol) are heated to 120° (bath temperature) for 2 hours with stirring. The ethanol formed by this reaction is removed by means of a water aspirator. Vacuum distillation (b.p. 0.05 152°-153°) yields 24.0 g (81.5% of theory) of a quickly crystallizing oil, [[(1-ethyl-3-methyl-5-pyrazolyl)-amino]methylene]malonic acid diethyl ester, m.p. 60°-67°. The product, recrystallized from ligroin (90°-100°), melts at 69°-70°.

reactant | 1-ethyl-3-methyl-5-aminopyrazole | 0.1 mol, 12.5 g | C(C)N1N=C(C=C1N)C | C6H11N3
reactant | ethoxymethylene malonic acid diethyl ester | 0.1 mol, 21.6 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
solvent | ethanol | C(C)O | C2H6O
product | [[(1-ethyl-3-methyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CNC1=CC(=NN1CC)C)=O | C14H21N3O4
